US04539209
PREPARATION OF 3-HEXYNYL HEXANOATE
Into a 250 ml reaction flask equipped with condenser, stirrer, heating mantle, thermometer and Dean Stark trap is placed 29.4 grams (0.3 moles) of 3-hexyn-1-ol; 34.8 grams (0.3 moles) of n-hexanoic acid; 100 ml toluene and 0.2 ml concentrated sulfuric acid. With stirring, the reaction mass is refluxed for a period of four hours. At the end of the four hour period, the reaction mass is then cooled to room temperature and washed with two volumes of 10% sodium carbonate followed by two volumes of saturated sodium chloride solution. The reaction mass is then distilled on a one plate short path column yielding the following fraction:

reactant | 3-hexyn-1-ol | 0.3 moles, 29.4 grams | C(CC#CCC)O | C6H10O
reactant | n-hexanoic acid | 0.3 moles, 34.8 grams | C(CCCCC)(=O)O | C6H12O2
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-HEXYNYL HEXANOATE | C(CCCCC)(=O)OCCC#CCC | C12H20O2
